US07449715B2
More specifically, a process for the preparation of the polymers illustrated herein, and more specifically, for the preparation of poly[bis(ethynyl)heteroacene]s, poly(4,8-didecynylbenzo[1,2-b:4,5-b′]dithiophene-2,6-diyl) (1a) and poly(4,8-bis(4-pentylphenylethynyl)benzo[1,2-b:4,5-b′]dithiophene-2,6-diyl) (1b), is shown in Scheme 1. First, 1-decyne (available from Sigma-Aldrich) is reacted with about 1 molar equivalent of isopropylmagnesium chloride (available from Sigma-Aldrich) in tetrahydrofuran (THF) at elevated temperatures like 60° C. for a suitable period of time like 30 minutes. Then to the reaction mixture is added benzo[1,2-b:4,5-b′]dithiophene (this starting material is prepared according to Beimling, P., et al, Chem. Ber. 1986, 119, 3198) followed by stirring at elevated temperatures like 60° C. for a suitable period of time like 1 hour. Subsequently, a tin (II) chloride (SnCl2) solution in 10 percent HCl is added to the reaction mixture and stirred at elevated temperatures like 60° C. for a suitable period of time like 30 minutes to afford 4,8-didecynylbenzo[1,2-b:4,5-b′]dithiophene. Lithiation of 4,8-didecynylbenzo[1,2-b:4,5-b′]dithiophene using n-butyllithium (n-BuLi) in THF at a suitable temperature like −70° C., followed by the addition of carbon tetrabromide (CBr4) and reacting at a suitable temperature like −70° C. and then 0° C. results in 2,6-dibromo-4,8-didecynylbenzo[1,2-b:4,5-b′]dithiophene. 2,6-Dibromo-4,8-didecynylbenzo[1,2-b:4,5-b]dithiophene is then polymerized using zinc in the presence of nickel (II) chloride (NiCl2), 2,2′-dipyridil, triphenylphosphine (PPh3) in N,N-dimethylacetamide (DMAc) at elevated temperatures like 80° C. for a suitable period of time like 48 hours. Poly(4,8-didecynylbenzo[1,2-b:4,5-b′]dithiophene-2,6-diyl) (1a) is thus obtained. Similarly, poly(4,8-bis(4-pentylphenylethynyl)benzo[1,2-b:4,5-b′]dithiophene-2,6-diyl) (1b) is prepared starting from 1-ethynyl-4-pentylbenzene instead of 1-decyne.

reactant | 1-decyne | C#CCCCCCCCC | C10H18
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | benzo[1,2-b:4,5-b′]dithiophene | S1C=2C(C=C1)=CC=1SC=CC1C2 | C10H6S2
reactant | tin (II) chloride | [Sn](Cl)Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | HCl | Cl | ClH
product | 4,8-didecynylbenzo[1,2-b:4,5-b′]dithiophene | C(#CCCCCCCCC)C1=C2C(SC=C2)=C(C2=C1SC=C2)C#CCCCCCCCC | C30H38S2
